US05179105
Under one atmosphere, a solution of 300 mg of 5-[3-(4-chlorophenylsulfonyl)-1-propenyl]-2-methoxymethoxy nitrobenzene in 8 ml of ethyl acetate and 500 mg of 10% palladium carbon added thereto were stirred in the presence of hydrogen gas. The resultant reaction mixture was filtered and then concentrated under a vacuum, to produce 220 mg of 5-[3-(4-chlorobenzenesulfonyl)propyl]-2-methoxymethoxy aniline in the form of a colorless oily substance. The yield was 73%. This product was put to use in its unpurified form in the following reaction.

reactant | 5-[3-(4-chlorophenylsulfonyl)-1-propenyl]-2-methoxymethoxy nitrobenzene | 300 mg | ClC1=CC=C(C=C1)S(=O)(=O)CC=CC=1C=CC(=C(C1)[N+](=O)[O-])OCOC | C17H16ClNO6S
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 8 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium carbon | 500 mg | [C].[Pd]
product | 5-[3-(4-chlorobenzenesulfonyl)propyl]-2-methoxymethoxy aniline | 220 mg, yield was 73% | ClC1=CC=C(C=C1)S(=O)(=O)CCCC=1C=CC(=C(N)C1)OCOC | C17H20ClNO4S
